US07981650B2
Preparation of the alkali-extractable hydroxycinnamic acid.
Ferulic acid determination. Enzymatic hydrolysates were dilued to ½ with methanol 100%, centrifuged at 12,000×g for 5 min and supernatants were filtered through a 0.2 μm nylon filter (Gelman Sciences, Acrodisc 13, Ann Arbor, Mich.). Filtrates were analyzed by HPLC (25 μL injected). HPLC analyses were performed at 280 nm and 30° C. on a HP1100 model (Hewlett-Packard Rockville, Md.) equipped with a variable UV/VIS detector, a 100-position autosampler-autoinjector. Separations were achieved on a Merck RP-18 reversed-phase column (Chromolith 3.5 μm, 4.6×100 mm, Merck). The flow rate was 1.4 ml/min. The mobile phase used was 1% acetic acid and 10% acetonitrile in water (A) versus acetonitrile 100% (B) for a total running time of 20 min, and the gradient changed as follows: solvent B started at 0% for 2 min, then increased to 50% in 10 min, to 100% in 3 min until the end of running. Data were processed by a HP 3365 ChemStation and quantification was performed by external standard calibration.

reactant | Ferulic acid | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | methanol | CO | CH4O
product | hydroxycinnamic acid | OC(C(=O)O)=CC1=CC=CC=C1 | C9H8O3
